US07034039B2
A suspension of 9H-fluoren-9-ylmethyl[6-(aminocarbothioyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.47 g, 0.8 mmol) and bromoacetone (0.22 g, 1.6 mmol) in ethanol (10 ml) was refluxed under heating for 1 h. The reaction mixture was poured into water and extracted with ethyl. acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 9H-fluoren-9-ylmethyl [2-isobutyl-6-(4-methyl-1,3-thiazol-2-yl)-1-oxo-4phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.41 g, 82.0%) as an amorphous.

reactant | 9H-fluoren-9-ylmethyl[6-(aminocarbothioyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.8 mmol, 0.47 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C(=S)N)=O)CC(C)C)=O | C36H33N3O3S
reactant | bromoacetone | 1.6 mmol, 0.22 g | BrCC(C)=O | C3H5BrO
reactant | water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 9H-fluoren-9-ylmethyl [2-isobutyl-6-(4-methyl-1,3-thiazol-2-yl)-1-oxo-4phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.41 g, 82.0% | C(C(C)C)N1C(C2=CC=C(C=C2C(=C1CNC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)C1=CC=CC=C1)C=1SC=C(N1)C)=O | C39H35N3O3S
